US08420690B2
a) 5-(1-methyl-1H-pyrazol-5-yl)-3-thiophenecarboxylic acid
To a solution of 5-bromo-3-thiophenecarboxylic acid (875 mg, 4.23 mmol) in dioxane/H2O (5:1, 21 mL) was added K2CO3 (205 mg, 14.8 mmol), tetrakistriphenylphosphine Pd(0) (297 mg, 0.26 mmol) and 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (988 mg, 4.75 mmol). The reaction mixture was heated to 80° C. in a sealed tube. After 5 h, additional tetrakistriphenylphosphine Pd(0) (108 mg, 0.1 mmol) and 5-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)-1-methyl-1H-pyrazole (989 mg, 4.75 mmol) were added. After 12 h, the reaction solution was then partitioned between H2O—CHCl3, and the aqueous phase was washed several times with CHCl3. The aqueous phase was then adjusted to pH 3 with 2.5M HCl and the aqueous phase extracted with CHCl3. The combined organics were dried (Na2SO4), concentrated under vacuum and dried under high vacuum overnight and used without further purification: LC-MS (ES) m/z=209 (M+H)+.

reactant | 5-bromo-3-thiophenecarboxylic acid | 4.23 mmol, 875 mg | BrC1=CC(=CS1)C(=O)O | C5H3BrO2S
reactant | K2CO3 | 14.8 mmol, 205 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 4.75 mmol, 988 mg | CN1N=CC=C1B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | 5-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)-1-methyl-1H-pyrazole | 4.75 mmol, 989 mg | CC1(COB(OC1)C1=CC=NN1C)C | C9H15BN2O2
solvent | dioxane H2O | 21 mL | O1CCOCC1.O
catalyst | tetrakistriphenylphosphine Pd(0) | 0.26 mmol, 297 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakistriphenylphosphine Pd(0) | 0.1 mmol, 108 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(1-methyl-1H-pyrazol-5-yl)-3-thiophenecarboxylic acid | CN1N=CC=C1C1=CC(=CS1)C(=O)O | C9H8N2O2S
